US07230011B2
2,6-Difluorobenzenesulfonic acid 1-phenethyl-3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester hydrochloride
To a solution of 1-phenethyl-3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole (175 mg, 0.52 mmol) and 2,6-difluorobenzenesulfonyl chloride (133 mg, 0.58 mmol) in tetrahydrofuran (20 mL), stirring at room temperature, was added 2,6-lutidine dropwise (134 mL, 1.16 mmol). The reaction mixture was stirred for 72 hours at room temperature, before diluting it with methanol (15 mL) and applying it directly to a 5 g SCX column. After thoroughly washing with methanol, the column was eluted with a 9:1 mixture of dichloromethane and 2 N ammonia in methanol. The eluent was concentrated in vacuo to a residue, which was purified on silica gel. Elution with a 9:1 mixture of dichloromethane and methanol provided 191 mg (64%) of the free base of the desired compound as a tan gum. The gum was further purified by preparative reverse-phase HPLC, which provided 156 mg (44%) of the title hydrochloride as an off-white solid: mp=209-212° C.; 1H NMR (400 MHz, dmso-d6): 10.55 (br s, 1H), 7.95-7.82 (m, 1H), 7.48-7.34 (m, 3H), 7.30 (s, 1H), 7.25-7.08 (m, 6H), 6.76 (br d, 1H, J=8.4 Hz), 4.29 (t, 2H, J=7.4 Hz), 3.41 (br d, 2H, J=12.4 Hz), 3.10-2.97 (m, 2H), 2.96 (t, 2H, J=7.0 Hz), 2.94-2.82 (m, 2H), 2.72 (s, 3H), 1.96-1.75 (m, 4H); MS (APCI): m/e 511.2 (M+1); Calculated (for C28H28F2N2O3S.HCl.0.6H2O): C 60.39, H 5.28, N 5.03; found: C 60.43, H 5.41, N 5.14.

reactant | 1-phenethyl-3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole | 0.52 mmol, 175 mg | C(CC1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)O)C1CCN(CC1)C | C22H26N2O
reactant | 2,6-difluorobenzenesulfonyl chloride | 0.58 mmol, 133 mg | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | 2,6-lutidine | N1=C(C=CC=C1C)C | C7H9N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | methanol | 15 mL | CO | CH4O
product | 2,6-Difluorobenzenesulfonic acid 1-phenethyl-3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester hydrochloride | 191 mg, 64% | Cl.C(CC1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)OS(=O)(=O)C1=C(C=CC=C1F)F)C1CCN(CC1)C | InChI=1S/C28H28F2N2O3S.ClH/c1-31-15-13-21(14-16-31)24-19-32(17-12-20-6-3-2-4-7-20)27-11-10-22(18-23(24)27)35-36(33,34)28-25(29)8-5-9-26(28)30;/h2-11,18-19,21H,12-17H2,1H3;1H
